US04495104
In 200 ml of ether is dissolved 1.5 g of 2,3-dimethoxy-6-(12-methoxycarbonyldodecyl)-5-methyl-1,4-benzoquinone (I:n=12, R=CH3) and the solution is shaken with 75 ml of a 20% aqueous solution of sodium hydrosulfite. The ether layer is separated and concentrated. To the residue are added, under ice-cooling and in a nitrogen gas stream, 5 ml of a 30% aqueous solution of sodium hydrosulfite and 3.5 ml of a 30% aqueous solution of potassium hydroxide. The mixture is warmed at 50° C. for 2.5 hours. After cooling, the reaction mixture is made acidic with cold hydrochloric acid and extracted with ether. The ether is distilled off under reduced pressure, the residue dissolved in 75 ml of methanol and a solution of 15 g of ferric chloride in 60 ml of water added. The mixture is stirred at room temperature for 1 hour, at the end of which time it is diluted with water and extracted with ethyl acetate. The extract is washed with water and dried, and the solvent is distilled off under reduced pressure. The residue is crystallized from ether-hexane to obtain 1.09 g of 6-(12-carboxydodecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone (I:n=12, R=H), m.p. 62° C.

reactant | 2,3-dimethoxy-6-(12-methoxycarbonyldodecyl)-5-methyl-1,4-benzoquinone | 1.5 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCCCC(=O)OC)=O | C23H36O6
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | 6-(12-carboxydodecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 1.09 g | C(=O)(O)CCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C22H34O6
